* PEX stability check: fixed DC differential input (VOFF param), x32, 1 kHz chop.
* Watch for oscillation / motorboating on the flat PEX netlist of eeg_afe_top.
.lib /Users/noah/.volare/volare/sky130/versions/0fe599b2afb6708d281543108caf8310912f54af/sky130A/libs.tech/ngspice/sky130.lib.spice tt
.temp 27
.include eeg_afe_top_pex.spice
.param VDD=1.80 VCM={1.80/2} VCMA=0.927 TCHOP=1m TCLK=62.5u VOFF=0m
VDD_SRC VDD18 0 {VDD}
VREF VCM_REF 0 {VCM}
VVP VP 0 {VCMA+25m}
VVN VN 0 {VCMA-25m}
VPHI PHI 0 PULSE(0 {VDD} 50n 20n 20n 499.85u {TCHOP})
VPHIB PHIB 0 PULSE(0 {VDD} 500.05u 20n 20n 499.85u {TCHOP})
BNPHI NPHI 0 V={VDD}-v(PHI)
BNPHIB NPHIB 0 V={VDD}-v(PHIB)
VCLK CLK16 0 PULSE(0 {VDD} 0 100n 100n 31.15u {TCLK})
BNCLK NCLK16 0 V={VDD}-v(CLK16)
* fixed DC differential input
VELP ELP 0 {VCM+VOFF/2}
VELN ELN 0 {VCM-VOFF/2}
VS8 S8 0 0
VS16 S16 0 0
VS32 S32 0 {VDD}
VS64 S64 0 0
XTOP ELP ELN VCM_REF VP VN PHI NPHI PHIB NPHIB PHI NPHI PHIB NPHIB CLK16 NCLK16 BIT NBIT S8 S16 S32 S64 VDD18 0 PGA_OUTP PGA_OUTN eeg_afe_top
.nodeset v(PGA_OUTP)=0.93 v(PGA_OUTN)=0.93 v(BIT)=1.8
.options reltol=3e-3 trtol=3 gmin=1e-13
.control
set noaskquit
set num_threads=4
save time v(PGA_OUTP) v(PGA_OUTN) i(VDD_SRC)
tran 500n 0.875s
wrdata ../results/tb_pex_dcin_0mv.csv time v(PGA_OUTP) v(PGA_OUTN)
quit
.endc
.end
